US07723332B2
According to general procedure C, 4-Bromo-2-trifluoromethoxy-benzenesulfonyl chloride (0.35 g, 1.03 mmol) and tert-butylamine (0.21 mL, 2.57 mmol) were stirred together with dry dichloromethane (5 mL) for 16 hours. 4-bromo-N-tert-butyl-2-(trifluoromethoxy)benzenesulfonamide (0.33 g, 85%) was provided after purification. MS (ESI) m/z 376. HPLC purity 100.0% at 210-370 nm, 10.2 min.; the Xterra® RP18 column, 3.5μ, 150×4.6 mm column, 1.2 mL/min., 85/15-5/95 (ammonium formate buffer pH=3.5/ACN+MeOH) for 10 min., hold 4 min.

reactant | 4-Bromo-2-trifluoromethoxy-benzenesulfonyl chloride | 1.03 mmol, 0.35 g | BrC1=CC(=C(C=C1)S(=O)(=O)Cl)OC(F)(F)F | C7H3BrClF3O3S
reactant | tert-butylamine | 2.57 mmol, 0.21 mL | C(C)(C)(C)N | C4H11N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 4-bromo-N-tert-butyl-2-(trifluoromethoxy)benzenesulfonamide | 0.33 g, 85% | BrC1=CC(=C(C=C1)S(=O)(=O)NC(C)(C)C)OC(F)(F)F | C11H13BrF3NO3S
